US07842688B2
b) tert-Butyl 3-[4,4-dimethyl-2-oxo-1-(2-trimethylsilanylethoxymethyl)-1,2,3,4-tetrahydroquinolin-8-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
Analogously to Method D, 0.28 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.21 g of 8-chloromethyl-4,4-dimethyl-1-(2-trimethylsilanylethoxymethyl)-3,4-dihydro-1H-quinolin-2-one are reacted. The title compound is obtained as a yellowish oil. Rf=0.33 (1:2 EtOAc-heptane); Rt=6.81.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.28 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | 8-chloromethyl-4,4-dimethyl-1-(2-trimethylsilanylethoxymethyl)-3,4-dihydro-1H-quinolin-2-one | 0.21 g | ClCC=1C=CC=C2C(CC(N(C12)COCC[Si](C)(C)C)=O)(C)C | C18H28ClNO2Si
product | tert-Butyl 3-[4,4-dimethyl-2-oxo-1-(2-trimethylsilanylethoxymethyl)-1,2,3,4-tetrahydroquinolin-8-ylmethoxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | CC1(CC(N(C2=C(C=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C)COCC[Si](C)(C)C)=O)C | C45H64N2O8Si
